US06677347B2
A solution of the compound of Example 51, 1-[2-(2-aminoethoxy)ethyl]-2-methyl-1H-imidazo[4,5-c]quinolin-4-amine (1.00 g, 3.50 mmol) in 30 mL of pyridine was chilled in an ice water bath. The stirred solution was treated dropwise with isopropylsulfonyl chloride (0.39 mL, 3.50 mmol) and the reaction was allowed to gradually warm to room temperature. After 18 h, the reaction was concentrated. The crude product was purified by column chromatography (SiO2, 90:10:0.5 CHCl3:MeOH:NH4OH) and then triturated in hexanes to give 314 mg of N-{2-[2-(4-amino-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]ethyl}propane-2-sulfonamide as a white solid.

reactant | 1-[2-(2-aminoethoxy)ethyl]-2-methyl-1H-imidazo[4,5-c]quinolin-4-amine | 3.50 mmol, 1.00 g | NCCOCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)C | C15H19N5O
reactant | isopropylsulfonyl chloride | 3.50 mmol, 0.39 mL | C(C)(C)S(=O)(=O)Cl | C3H7ClO2S
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
product | N-{2-[2-(4-amino-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]ethyl}propane-2-sulfonamide | 314 mg | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCOCCNS(=O)(=O)C(C)C)C | C18H25N5O3S
